US06777418B2
A solution of 0.68 g (1.57 mmol) of Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-methyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate, 0.36 g (2.03 mmol) of N-bromosuccinimide and 0.019 g (0.078 mmol) of benzoyl peroxide in 15 mL of carbon tetrachloride was heated at reflux. After 3 hours the reaction was cooled to room temperature, washed with 10% aqueous sodium bisulfite and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution, hexane-5% ethyl acetate/hexane) to give 0.45 g (56%) of Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-bromomethyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate (M+=512).

reactant | Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-methyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 1.57 mmol, 0.68 g | C(C)OC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CC(C(C2C=C1C)(C)C)OC(C)=O)(C)C)=O | C28H34O4
reactant | N-bromosuccinimide | 2.03 mmol, 0.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.078 mmol, 0.019 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-bromomethyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 0.45 g, 56% | C(C)OC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CC(C(C2C=C1CBr)(C)C)OC(C)=O)(C)C)=O | C28H33BrO4
